US06967220B2
d) N-(4-Butoxy-3-iodo-5-methylaminobenzyl)-N-hydroxyformamide
A mixture of N-(3-amino-4-butoxy-5-iodo-benzyl)-N-hydroxy-formamide (36 mg, 0.1 mmol), potassium carbonate (11 mg, 0.11 mmol) and iodomethane (9.2 ul, 0.15 mmol) in DMF (1 ml) was stirred 18 h at room temperature. The mixture was partitioned between ethyl acetate and water, the organic extract was washed with brine then dried with sodium sulfate and all voltiles removed. Purification by preparative HPLC afforded the title compound (8 mg, 22%) 1H NMR (400 MHz, CD3OD) δ 8.36* 7.16 (s, 1H), 7.00 (s, 1H), 6.59 (s, 1H), 4.58* 4.54 (s, 2H) 3.84 (t, j=6.2 Hz, 2H), 2.83* 2.81 (s, 3H) 1.83-1.87 (m, 2H), 1.54-1.59 (m, 2H), 1.03 (t, j=7.1 Hz, 3H). M+1=379.

reactant | N-(3-amino-4-butoxy-5-iodo-benzyl)-N-hydroxy-formamide | 0.1 mmol, 36 mg | NC=1C=C(CN(C=O)O)C=C(C1OCCCC)I | C12H17IN2O3
reactant | potassium carbonate | 0.11 mmol, 11 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.15 mmol, 9.2 ul | IC | CH3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(4-Butoxy-3-iodo-5-methylaminobenzyl)-N-hydroxyformamide | 8 mg, 22% | C(CCC)OC1=C(C=C(CN(C=O)O)C=C1NC)I | C13H19IN2O3
